US07244766B2
Preparation 101: 3-Hydroxy-N-methyl-5-(trifluoromethyl)benzamide
Prepared from 3-hydroxy-5-(trifluoromethyl)benzoic acid and methylamine using the method of preparation 58 to give the title compound as a pale orange solid.

reactant | 3-hydroxy-5-(trifluoromethyl)benzoic acid | OC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H5F3O3
reactant | methylamine | CN | CH5N
product | 3-Hydroxy-N-methyl-5-(trifluoromethyl)benzamide | OC=1C=C(C(=O)NC)C=C(C1)C(F)(F)F | C9H8F3NO2
